US08557834B2
N-({1-Cyclohexyl-6-hydroxy-2,4-dioxo-3-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine
A mixture of ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate (340 mg, 1.0 mmoles), pulv. Potassium carbonate (740 mg, 5.35 mmoles) and 6-(bromomethyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (250 mg, 0.89 mmoles) in dimethylformamide (5 mL) was vigorously stirred at 100° C. for 3 hours. The mixture was poured into 1 molar hydrochloric acid and extracted with ethyl acetate. The organic solution was washed with 1 molar hydrochloric acid and evaporated. The residue was purified by flash chromatography (10-50% ethyl acetate in hexane), the required fractions evaporated, dissolved in ethanol (5 mL) and 1 molar sodium hydroxide solution (1.0 mL) and 6 molar sodium hydroxide solution (1.0 mL) added. The mixture was stirred overnight, acidified and extracted with ethyl acetate (×2), the combined extracts washed with 1 molar hydrochloric acid, dried and evaporated to give the title compound (156 mg, 35%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.07 (br. s., 1 H), 7.24 (dd, J=4.80, 3.28 Hz, 2 H), 6.98 (dd, J=8.21, 1.39 Hz, 1 H), 4.93 (s, 2 H), 4.66 (t, J=11.87 Hz, 1 H), 4.13 (d, J=5.56 Hz, 2 H), 2.19-2.36 (m, 2 H), 1.79 (d, J=12.63 Hz, 2 H), 1.62 (s, 7 H), 1.01-1.37 (m, 15 H).

reactant | ethyl N-[(1-cyclohexyl-6-hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycinate | 1.0 mmoles, 340 mg | C1(CCCCC1)N1C(NC(C(=C1O)C(=O)NCC(=O)OCC)=O)=O | C15H21N3O6
reactant | Potassium carbonate | 5.35 mmoles, 740 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-(bromomethyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | 0.89 mmoles, 250 mg | BrCC=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C15H21Br
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-({1-Cyclohexyl-6-hydroxy-2,4-dioxo-3-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-1,2,3,4-tetrahydro-5-pyrimidinyl}carbonyl)glycine | 156 mg, 35% | C1(CCCCC1)N1C(N(C(C(=C1O)C(=O)NCC(=O)O)=O)CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C28H37N3O6
